US03980788
A solution of 3.5 g. (14.6 mmoles) of 9-acetoxyxanthene and 2.1 g. (14.8 mmoles) of 2-(dimethylaminomethyl)-piperidine in 50 ml. of toluene was refluxed for 40 hours. The mixture was then washed with sodium bicarbonate, dried and evaporated. Recrystallization of the residue from hexane afforded 1-(9-xanthenyl)-2-(dimethylaminomethyl)-piperidine, m.p. 81°-83°C.

reactant | 9-acetoxyxanthene | 14.6 mmoles | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
reactant | 2-(dimethylaminomethyl)-piperidine | 14.8 mmoles | CN(C)CC1NCCCC1 | C8H18N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(9-xanthenyl)-2-(dimethylaminomethyl)-piperidine | C1=CC=CC=2OC3=CC=CC=C3C(C12)N1C(CCCC1)CN(C)C | C21H26N2O
